US04064138
L-lysine monofluorophosphate was prepared by combining 29.2 grams of free-base lysine with 20 gm. (grams) of monofluorophosphoric acid in about 75 ml. of water. The resulting clear syrupy solution was poured into 750 ml. of a 50:50 mixture of methanol and ethanol (absolute) to precipitate the solid salt. The cake was collected after filtration and rinsed with methanol. The product (L-lysine monofluorophosphate) was then air dried. The L-lysine monofluorophosphate was tested in rat diets as described in Example I but at a level of 6.8 ppm fluoride. Caries reduction was 36%.

reactant | lysine | 29.2 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | monofluorophosphoric acid | OP(=O)(O)F | FH2O3P
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | L-lysine monofluorophosphate | P(=O)(O)(O)F.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.FH2O3P/c7-4-2-1-3-5(8)6(9)10;1-5(2,3)4/h5H,1-4,7-8H2,(H,9,10);(H2,2,3,4)/t5-;/m0./s1
